US09403835B2
Step 1: 4-(2-bromo-5-fluoro-benzyl)-piperazine-1-carboxylic acid tert-butyl ester
A mixture of 2-bromo-5-fluoro-benzaldehyde (3.00 g, 14.8 mmol), piperazine-1-carboxylic acid tert-butyl ester (2.75 g, 14.8 mmol) and sodium triacetoxyborohydride (4.38 g, 20.7 mmol) was prepared in DCE (80 mL) and stirred at RT for 3 hours. The reaction mixture was diluted with DCM (100 mL), and then washed with a mixture of saturated aqueous solution of Na2CO3 (100 mL) and water (50 mL). The aqueous layer was extracted with DCM (100 mL). The organic layers were combined, dried (Na2SO4) and concentrated under vacuum. After purification by filtration through a silica pad (EtOAc), the title compound was obtained as a white powder (5.12 g, 93%). 1H NMR (300 MHz, CDCl3) δ 7.48 (dd, J=8.8, 5.3 Hz, 1H), 7.26 (dd, J=9.6, 3.1 Hz, 1H), 6.85 (ddd, J=8.8, 7.8, 3.1 Hz, 1H), 3.56 (s, 2H), 3.49-3.42 (m, 4H), 2.50-2.42 (m, 4H), 1.46 (s, 9H). HPLC (max plot) 94.1%; Rt 2.73 min. UPLC/MS: (MS+) 373.1 and 375.1 ([M+H]+).

reactant | 2-bromo-5-fluoro-benzaldehyde | 14.8 mmol, 3.00 g | BrC1=C(C=O)C=C(C=C1)F | C7H4BrFO
reactant | piperazine-1-carboxylic acid tert-butyl ester | 14.8 mmol, 2.75 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | sodium triacetoxyborohydride | 20.7 mmol, 4.38 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCE | 80 mL | ClCCCl | C2H4Cl2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 4-(2-bromo-5-fluoro-benzyl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)CC1=C(C=CC(=C1)F)Br | C16H22BrFN2O2
